US04317920
To a solution of 33 g. of 2-methane-sulphonyloxy-3-phenoxy-hydratropic acid in 200 ml. of methanol 28 ml. of triethyl amine and 2 g. of a 5% palladium on charcoal catalyst are added at 25° C. The mixture is then hydrogenated under atmospheric pressure until a calculated amount of hydrogen is used up. The catalyst is filtered off and the solution is evaporated. The evaporation residue is taken up in water, acidified with a 20% aqueous hydrochloric acid solution and the separated oil is extracted with chloroform. The chloroform solution is evaporated after drying over sodium sulphate, and the residue is distilled off. 23 g. (95%) of 3-phenoxy-hydratropic acid are obtained, boiling at 190° C. to 192° C. (0.4 mmHg.). nD25 =1.5751. Melting point of the corresponding cyclohexylamine salt amounts to 153° C. to 154° C.

reactant | 2-methane-sulphonyloxy-3-phenoxy-hydratropic acid | CS(=O)(=O)OC1=C(C(C(=O)O)C)C=CC=C1OC1=CC=CC=C1 | C16H16O6S
reactant | methanol | 28 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 3-phenoxy-hydratropic acid | 95% | O(C1=CC=CC=C1)C=1C=C(C(C(=O)O)C)C=CC1 | C15H14O3
